* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\combined_sch\combined_schematicV2.asc
XU3 N027 N025 +5 -5 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N022 N025 300K
R12 N027 0 10K
R10 N027 N026 100K
XU1 N029 N024 +5 -5 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N029 0.1µ
R1 N029 Tpre 10K
R15 N040 Tpost 10K
R3 N011 N024 10K
R11 N027 N013 100K
XU2 N028 N023 +5 -5 N026 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N023 D
D2 P001 N028 D
R7 N026 N028 1Meg
R8 0 N028 700K
R5 P001 0 100K
C2 P001 N011 0.001µ
R6 N026 N023 22K
C3 N023 0 100n
R13 0 N025 10K
D3 N022 P002 D
R9 N027 -5 100K
XU5 N039 N034 +5 -5 N037 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N034 D
D5 P003 N039 D
R21 N037 N039 1Meg
R22 0 N039 700K
R19 P003 0 100K
R20 N037 N034 22K
C6 N034 0 100n
C5 P003 N013 0.001µ
XU6 N038 N036 +5 -5 N032 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N032 N036 300K
R26 N038 0 10K
R24 N038 N037 100K
R25 N038 N011 100K
R27 0 N036 10K
D6 N032 P004 D
R23 N038 -5 100K
R33 Sine N021 30K
R31 N021 P002 15K
R32 N031 N021 15K
R4 N011 N029 1Meg
R2 N024 0 1Meg
XU4 N040 N035 +5 -5 N013 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N040 0.1µ
R17 N013 N035 10K
R18 N013 N040 1Meg
R16 N035 0 1Meg
XU8 0 N021 +5 -5 Sine level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 N031 N033 10K
XU7 0 N033 +5 -5 N031 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R29 N033 P004 10K
C7 Sine N021 0.047µ
XU9 N012 N008 +5 -5 N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R45 N005 N008 150K
R43 N012 0 10K
R41 N012 N011 100K
R44 0 N008 10K
R40 N012 N007 100K
R39 0 N007 100K
R38 N007 -5 50K
D7 N005 Sombrero D
R48 N009 N003 120K
XU10 N010 N003 +5 -5 N009 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R46 N003 Sombrero 100K
R47 N010 Sombrero 100K
Q2 N010 N018 0 0 NPN
R51 Hebbian N004 35K
R49 N004 N009 15K
R50 0 N004 15K
XU11 0 N004 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N004 0.047µ
R71 N018 Sine 1K
V1 +5 0 5
V2 0 -5 5
R42 N012 N013 100K
XU12 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU13 0 N016 +5 -5 N017 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N002 N001 R=((1-V(mod))*100K+1m)
R35 N001 Sombrero 100K
R36 N016 N015 100K
R37 N017 N016 R=(V(mod)*100K+1m)
XU14 0 N006 +5 -5 LearnOut level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R52 LearnOut N006 100K
R53 N006 N002 200K
R54 N006 N017 100K
V5 mod 0 PULSE(0 0 0 0 0 0)
XU15 0 N014 +5 -5 N015 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R56 N015 N014 100K
R57 N014 Hebbian 100K
XU16 N019 N020 NC_01 MEM_KNOWM Ron=50k Roff=150k Voff=1 Von=1 TAU=0.0001
R60 N054 N045 10K
XU18 N052 N043 +5 -5 N049 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D8 0 N043 D
D9 P005 N052 D
R61 N049 N052 0.1Meg
R62 0 N052 500K
R63 P005 0 100K
R64 N049 N043 150K
C9 N043 0 10n
C10 P005 N051 0.001µ
XU19 N054 N046 +5 -5 N053 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C11 0 N054 0.68µ
R65 N053 N046 50K
R66 N046 0 1Meg
V8 InSpike 0 PULSE(0 1 0 1n 1n 3m 10m)
XU20 N053 N048 +5 -5 N051 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU21 N050 N042 +5 -5 N047 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D10 0 N042 D
D11 P006 N050 D
R67 N047 N050 0.1Meg
R68 0 N050 500K
R69 P006 0 100K
R70 N047 N042 75K
C12 N042 0 22n
C13 P006 N049 0.001µ
D12 N047 P007 D
R72 Tpost P007 12K
R73 0 Tpost 25K
R74 N053 N054 1000
V9 N048 0 1
XU22 N055 N044 +5 -5 N045 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R75 N045 N044 200K
R76 N044 0 100K
R77 N055 Tpre 100K
R78 N055 0 100K
R79 0 N055 100K
XU17 ctrl N030 N019 LearnOut -15 0 ctrl Tpre N020 0 +15 ADG1236
V6 +15 0 15
V7 0 -15 15
XU23 0 N030 +5 -5 Tpre level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R80 N030 InSpike 100K
XU24 N041 LearnOut +5 -5 ctrl level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R81 ctrl N041 100K
R82 0 N041 10K
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.1 0 1000u
.lib adg1236.cir
.lib memristor_with_state.sub
.lib UniversalOpamps2.sub
.backanno
.end
